US05707991
A The reaction is carried out in a way analogous to that described in Example 3, but from 2.62 g of tert-butyl (2RS,4RS,5SR)-4-acetyl-1-{2-[3-(3-(methoxycarbonyl)phenyl)ureido]acetyl}-5-phenylpyrrolidine-2-carboxylate in a mixture of 5 cm3 of a normal aqueous potassium hydroxide solution, 25 cm3 of distilled water and 100 cm3 of methanol. After treatment, there is obtained 0.6 g of (2RS,4SR,5SR)-3-{3-[2-(4-acetyl-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid, melting at 145° C.

reactant | tert-butyl (2RS,4RS,5SR)-4-acetyl-1-{2-[3-(3-(methoxycarbonyl)phenyl)ureido]acetyl}-5-phenylpyrrolidine-2-carboxylate | 2.62 g | C(C)(=O)C1CC(N(C1C1=CC=CC=C1)C(CNC(=O)NC1=CC(=CC=C1)C(=O)OC)=O)C(=O)OC(C)(C)C | C28H33N3O7
reactant | water | 25 cm3 | O | H2O
reactant | methanol | 100 cm3 | CO | CH4O
solvent | potassium hydroxide | 5 cm3 | [OH-].[K+]
product | (2RS,4SR,5SR)-3-{3-[2-(4-acetyl-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid | 0.6 g | C(C)(=O)C1CC(N(C1C1=CC=CC=C1)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O)C(=O)OC(C)(C)C | C27H31N3O7
